US04101546
To a vigorously stirred solution of 9.6 grams (0.04 mole) of sodium sulfide nonahydrate in 100 milliliters of dimethylformamide was gradually added 6.6 grams (0.04 mole) of 2,6-dichloropyrazine-1-oxide in 50 milliliters of dimethylformamide. The reaction mixture was stirred overnight at ~40° C. Thereafter, 4.3 grams (0.04 mole) of chloromethylthiocyanate were gradually added and the mixture stirred for 4 hours. At the completion of the reaction, the dimethylformamide was removed by evaporation under reduced pressure and the residue was dissolved in a mixture of water and chloroform. Two phases formed and the aqueous phase was acidified with hydrochloric acid and extracted with chloroform. The organic portions were combined and washed with both a saturated sodium bicarbonate solution and a saturated sodium chloride solution and dried over magnesium sulfate. The chloroform was thereafter removed by evaporation leaving the 6-chloro-2-(thiocyanatomethylthio)pyrazine-1-oxide as a residue. The product was recrystallized from methanol and was recovered in a yield of 3.0 grams (32 percent of theoretical). The product melted at 95°-98° C and upon analysis was found to have carbon, hydrogen, chlorine, nitrogen and sulfur contents of 31.00, 1.82, 15.20, 18.04 and 27.20 percent, respectively, as compared with the theoretical contents of 30.84, 1.71, 15.20, 17.99 and 27.41 percent, respectively, as calculated for the above-named compound.

reactant | sodium sulfide nonahydrate | 0.04 mole, 9.6 grams | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 2,6-dichloropyrazine-1-oxide | 0.04 mole, 6.6 grams | ClC1=[N+](C(=CN=C1)Cl)[O-] | C4H2Cl2N2O
reactant | chloromethylthiocyanate | 0.04 mole, 4.3 grams | ClCSC#N | C2H2ClNS
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 milliliters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
product | 6-chloro-2-(thiocyanatomethylthio)pyrazine-1-oxide | ClC1=CN=CC(=[N+]1[O-])SCSC#N | C6H4ClN3OS2
